US08071591B2
A solution of (1S,3R)-3-(3-pyridyl)cyclopentanol (3.95 g, 24.2 mmol) in THF (80 mL) was cooled to 4° C. and treated with phthalimide (3.91 g, 26.6 mmol), Diisopropylazodicarboxylate (5.24 mL, 26.6 mmol) and triphenylphosphine (6.98 g, 26.6 mmol). The reaction mixture was stirred at room temperature for 2 h. The reaction mixture was diluted with EtOAc, and washed with H2O and brine. The organic layers was dried over Na2SO4. After concentration under reduced pressure, the residue was purified by column chromatography (Hexane/EtOAc=4/1) to yield (1R,3R)-N-[3-(3-pyridyl)cyclopentyl]phthalimide (6.27 g, 89%) as colorless powder.

reactant | (1S,3R)-3-(3-pyridyl)cyclopentanol | 24.2 mmol, 3.95 g | N1=CC(=CC=C1)[C@H]1C[C@H](CC1)O | C10H13NO
reactant | phthalimide | 26.6 mmol, 3.91 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | Diisopropylazodicarboxylate | 26.6 mmol, 5.24 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | triphenylphosphine | 26.6 mmol, 6.98 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (1R,3R)-N-[3-(3-pyridyl)cyclopentyl]phthalimide | 6.27 g, 89% | N1=CC(=CC=C1)[C@H]1C[C@@H](CC1)N1C(C=2C(C1=O)=CC=CC2)=O | C18H16N2O2
